2196-10-08 10:09:00 Physician Attending Progress Note
Chief Complaint: Asthma with acute exacerbation
   Pneumonia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 NASAL SWAB - At [**2196-10-8**] 01:22 AM
   -FIO2 weaned down
   -RR diminshed
   -Pain remains unchanged.
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   Codeine
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2196-10-8**] 09:11 AM
   Heparin Sodium (Prophylaxis) - [**2196-10-8**] 09:11 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Pain: [**10-6**] WorstPain location: Leg--consistent with fibromyalgia pain
   chronically
   Flowsheet Data as of  [**2196-10-8**] 09:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.2
C (97.2
   HR: 74 (72 - 101) bpm
   BP: 122/60(67) {115/51(66) - 148/95(109)} mmHg
   RR: 14 (11 - 23) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
             47 mL
   PO:
             TF:
   IVF:
   47 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                  1,150 mL
   Urine:
   1,150 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                 -1,104 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 95%
   ABG: 7.37/59/42/31/6
   PaO2 / FiO2: 84
   Physical Examination
   General Appearance: Well nourished
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Crackles : , Wheezes : )
diffuse wheezes  with
   expiration and signficant prolongation of expiratory phase noted
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   12.3 g/dL
   390 K/uL
   133 mg/dL
   0.6 mg/dL
   31 mEq/L
   4.4 mEq/L
   4 mg/dL
   101 mEq/L
   140 mEq/L
   37.2 %
   16.1 K/uL
        [image002.jpg]
                             [**2196-10-8**]  01:43 AM
                             [**2196-10-8**]  04:31 AM
   WBC
   16.1
   Hct
   37.2
   Plt
   390
   Cr
   0.6
   TCO2
   35
   Glucose
   133
   Other labs: PT / PTT / INR:13.1/24.6/1.1, CK / CKMB / Troponin-T:59//,
   ALT / AST:[**8-11**], Alk Phos / T Bili:104/0.1, Differential-Neuts:90.8 %,
   Lymph:7.2 %, Mono:0.7 %, Eos:1.2 %, Lactic Acid:1.9 mmol/L, Albumin:4.0
   g/dL, LDH:148 IU/L, Ca++:9.5 mg/dL, Mg++:1.8 mg/dL, PO4:3.4 mg/dL
   Fluid analysis / Other labs: VBG-7.37/59/42
   Imaging: CT Chest--areas of ground glass opacity in right middle
   lobe--small patches, some evidence of air trapping noted, no effusion,
   no consolidations.
   Microbiology: All pending
   Assessment and Plan
   26 yo female with h/o Asthma, fibromyalgia and now admitted with
   exacerbation of Asthma.  This is in the setting of fevers, cough,
   sputum concerning for infectious trigger.  Patient does have sick
   contacts with young children and does have mold exposure in current
   living environment.  WBC count is elevated but without focal
   infiltrate.  Interestingly her HCO3- is elevated which argues for
   significant chronic ventilatory compromise in addition to Asthma.  This
   combination of likely viral trigger, chronic chest wall restruction
   with obesity and acute exacerbation of asthma is driving significant
   impairment in ventilation and respiratory distress.  In addition, there
   was significant hypoxemia at time of admission which has improved.
   Importantly she does have description
   1)Asthma-With exacerbation secondary to infectious trigger (possibly
   viral).  The notion of mold as trigger is significant and of concern.
   Pneumonia-
   -Sputum
sent, viral cultures pending and fungal sent as well
   -Infiltrates do seem unlikley to be varicella but may represent
   alternative viral sources including influenza, parainfluenza, adneno
   all possible
   -No Tamilflu given 3 days of symptoms and high resistance
   -Levofloxacin to continue
   -Will wean O2 as possible
   Asthma with Acute Exacerbation
   -Xoponex
   -Advair to continue
   -Solumedrol 125 today
move to po at 24 hours if stable
   -Will need to consider use of NIV is patient with worsening or fatigue
   given marked elevation of PCO2
 PNEUMONIA, OTHER
 DYSPNEA (SHORTNESS OF BREATH)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   ICU Care
   Nutrition: po diet to resume
   Glycemic Control:
   Lines:
   22 Gauge - [**2196-10-8**] 12:03 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes

2196-10-09 10:00:00 Physician Attending Progress Note
Chief Complaint: Asthma with acute exacerbation
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Diet advanced to clears
   Patient with continued negative fluid balance across past 24 hours
   Patient subjectively reports breathing as worse
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   Codeine
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2196-10-8**] 07:55 PM
   Omeprazole (Prilosec) - [**2196-10-8**] 08:10 PM
   Heparin Sodium (Prophylaxis) - [**2196-10-9**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Cardiovascular: Tachycardia
   Respiratory: Tachypnea
   Heme / Lymph: Anemia
   Flowsheet Data as of  [**2196-10-9**] 09:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.1
C (98.7
   HR: 94 (74 - 104) bpm
   BP: 96/65(70) {87/44(57) - 132/102(109)} mmHg
   RR: 22 (9 - 26) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                    647 mL
                                                                    100 mL
   PO:
                                                                    600 mL
                                                                    100 mL
   TF:
   IVF:
                                                                     47 mL
   Blood products:
   Total out:
                                                                  3,400 mL
                                                                  1,300 mL
   Urine:
                                                                  3,400 mL
                                                                  1,300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,754 mL
                                                                 -1,200 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 92%
   ABG: ///32/
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Wheezes : , Diminished: ), Continued prolonged
   expiratory phase and wheezing throughout
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   12.0 g/dL
   398 K/uL
   124 mg/dL
   0.7 mg/dL
   32 mEq/L
   3.9 mEq/L
   7 mg/dL
   99 mEq/L
   141 mEq/L
   36.0 %
   18.9 K/uL
        [image002.jpg]
                             [**2196-10-8**]  01:43 AM
                             [**2196-10-8**]  04:31 AM
                             [**2196-10-9**]  03:47 AM
   WBC
   16.1
   18.9
   Hct
   37.2
   36.0
   Plt
   390
   398
   Cr
   0.6
   0.7
   TropT
   <0.01
   TCO2
   35
   Glucose
   133
   124
   Other labs: PT / PTT / INR:13.1/24.6/1.1, CK / CKMB /
   Troponin-T:59/2/<0.01, ALT / AST:[**8-11**], Alk Phos / T Bili:104/0.1,
   Differential-Neuts:90.8 %, Lymph:7.2 %, Mono:0.7 %, Eos:1.2 %, Lactic
   Acid:1.9 mmol/L, Albumin:4.0 g/dL, LDH:148 IU/L, Ca++:9.7 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.5 mg/dL
   Imaging: CXR-No change from [**2196-10-7**]
   Assessment and Plan
   27 yo female with history of Asthma and now admitted wtih worsening
   respiratory distress and hypoxemia.  She has had significant diuresis
   but has not had resolution of her persistent and significant wheezing
   and expiratory airflow obstruction despite continued treatment across
   past 24 hours.
   1)Asthma with Acute Exacerbation-She has persistence of severe airflow
   compromise--this is in the setting findings of right middle lobe ground
   glass opacites concerning for infection.  It is concerning that
   hypoxemia remains so substantial at this time and this may be related
   to significant hyperinflation and worsening of V/Q matching.
   -Advair
   -Levofloxacin
   -Alb/Atrovent
   -Will need to consider continuous nebs in place to aid with break of
   bronchospasm
   -Singular to be added
   -Solumdrol
80mg IV q 8 hours
   -Will followup on sputum/nasal cultures
   -Continued negative fluid balance reasonable
   -Will add Singulair at this time with no contraindications identified
   -Need to increase the frequency of B-agonist which is currently spaced
   at q 6 hours
 RESPIRATORY FAILURE, CHRONIC
 PNEUMONIA, OTHER
 DYSPNEA (SHORTNESS OF BREATH)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes